US07893056B2
To a suspension of (1,3-thiazol-4-ylmethyl)amine (0.1491 g, 1.308 mmol) in THF (10 mL) was added a solution of tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate (0.649 g, 1.308 mmol) and triethylamine (0.22 mL, 1.5784 mmol) in THF (2 mL). Additional THF (3 mL) was added, and the reaction was stirred overnight. Then the reaction mixture was diluted with water, and the aqueous layer was extracted with ethyl acetate. The organics were dried (Na2SO4) and concentrated. The resulting crude material was purified by silica gel chromatography (0-100% ethyl acetate in hexanes) to produce tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(1,3-thiazol-4-ylmethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate as a yellow oil (0.51 g, 68%). LCMS: (M-2Boc)=375.0.

reactant | (1,3-thiazol-4-ylmethyl)amine | 1.308 mmol, 0.1491 g | S1C=NC(=C1)CN | C4H6N2S
reactant | tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate | 1.308 mmol, 0.649 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)Cl)Cl)C(=O)OC(C)(C)C | C19H27Cl2FN4O6
reactant | triethylamine | 1.5784 mmol, 0.22 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(1,3-thiazol-4-ylmethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | 0.51 g, 68% | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)NCC=1N=CSC1)Cl)C(=O)OC(C)(C)C | C23H32ClFN6O6S
